Name:  ___.              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Erythromycin Base / Flagyl
 
Attending: ___.
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ woman with history of
diverticulitis, HTN, HLD, DMII who presents with abdominal pain.

Patient reports that she developed abdominal pain, bloating, and
gas since 5:30 pm on the day prior to admission. She describes
the pain as starting in her lower abdomen going to her right 
side
and now in the epigastric area. She describes it as a strong
aching pain that is worse when she lies down. She ate fried ribs
yesterday 2 hours before her pain started. She has not had an
appetite since it started, but has been able to tolerate 
liquids.
She denies any fevers/chills, cough, sore throat,
nausea/vomiting/diarrhea, dysuria/hematuria. She does not smoke.
She has no history of any cardiac issues. Of note, patient was
recently in ___ for four months in the ___ and 2 months
in ___. She was howpitalized for an "amoeba" infection which
she says completely resolved and she was discharged.

Initial vitals in the ED: 5 97.8 95 167/96 17 100% RA 
Labs notable for: CBC, BMP wnl; AST 1715, ALT 1258, AP 225, Tb
1.9, lipase 160; INR 1.1; trop <0.01
Imaging notable for:
- CT A/P with contrast: 
1. There is extensive diverticulosis of the sigmoid colon,
without wall thickening or fat stranding to suggest
diverticulitis.
2. No acute intra-abdominal process to explain the patient's
symptoms.
- RUQUS: 
1. There is a 2.0 cm hypoechoic lesion in the right lobe of the
liver, without internal vascularity, which is nonspecific. If
further evaluation is clinically indicated, nonurgent 
multiphasic
CT or MR can be performed for further evaluation.
2. No cholelithiasis or cholecystitis.

Consults: Hepatology - recommended to ED to send many serologic
assays include hepatitis serologies, tox screen, etc (ordered)
Patient given: Ibuprofen 600 mg x2

On arrival to the ward she feels much better, all symptoms
resolved, and she is wondering why she was admitted (this was
explained)

 
Past Medical History:
- HTN
- HLD
- DMII
- Diverticulitis
- Migraines
 
Social History:
___
Family History:
Mother died of PBC.
 
Physical Exam:
ADMISSION EXAM:

GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, II/VI HSM, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended,very sl ttp ruq, but neg 
___
sign.  Bowel
sounds present.  No HSM.  OBESE
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted  NO JAUNDICE OR ICTERUS
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout.  NO ASTERIXIS
PSYCH: pleasant, appropriate affect

Patient examined on day of discharge. AVSS. Abdomen is soft and 
non-tender, with no tenderness in the RUQ (different than 
admission). Otherwise unchanged.
 
Pertinent Results:
LABORATORY RESULTS:

___ 07:20AM BLOOD WBC-4.6 RBC-4.34 Hgb-12.3 Hct-39.5 MCV-91 
MCH-28.3 MCHC-31.1* RDW-13.0 RDWSD-43.1 Plt ___
___ 07:50AM BLOOD WBC-4.9 RBC-4.38 Hgb-12.6 Hct-38.8 MCV-89 
MCH-28.8 MCHC-32.5 RDW-12.6 RDWSD-40.8 Plt ___
___ 07:20AM BLOOD Neuts-52.5 ___ Monos-9.0 Eos-2.2 
Baso-0.4 Im ___ AbsNeut-2.39 AbsLymp-1.62 AbsMono-0.41 
AbsEos-0.10 AbsBaso-0.02
___ 07:50AM BLOOD Neuts-65.0 ___ Monos-9.7 Eos-1.2 
Baso-0.4 Im ___ AbsNeut-3.16 AbsLymp-1.13* AbsMono-0.47 
AbsEos-0.06 AbsBaso-0.02
___ 12:53PM BLOOD ___
___ 07:50AM BLOOD Glucose-133* UreaN-18 Creat-0.7 Na-140 
K-3.9 Cl-101 HCO3-21* AnGap-18
___ 07:20AM BLOOD Glucose-109* UreaN-17 Creat-0.8 Na-141 
K-4.3 Cl-101 HCO3-29 AnGap-11
___ 07:50AM BLOOD ALT-1258* AST-1715* AlkPhos-225* 
TotBili-1.9*
___ 07:20AM BLOOD ALT-861* AST-405* AlkPhos-274* Amylase-57 
TotBili-0.8
___ 07:50AM BLOOD Lipase-160*
___ 07:20AM BLOOD Lipase-29
___ 07:20AM BLOOD Calcium-10.0 Phos-4.5 Mg-2.2 Iron-92
___ 07:20AM BLOOD calTIBC-411 Ferritn-172* TRF-316
___ 07:20AM BLOOD TSH-6.0*
___ 10:35PM BLOOD HAV Ab-POS* IgM HAV-PND
___ 04:20PM BLOOD IgG-788 IgA-82 IgM-64
___ 04:20PM BLOOD AMA-NEGATIVE Smooth-NEGATIVE
___ 07:50AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 07:20AM BLOOD tTG-IgA-PND
___ 04:20PM BLOOD HCV Ab-NEG

RUQUS:

1. There is a 2.0 cm hypoechoic lesion in the right lobe of the 
liver, without 
internal vascularity, which is nonspecific.  The lesion was not 
demonstrated 
on CT abdomen and pelvis from same day.  If further evaluation 
is clinically 
indicated, nonurgent multiphasic CT or MR can be performed for 
further 
evaluation. 
2. No cholelithiasis or cholecystitis. 

CT Abdomen and pelvis:
  
1. There is extensive diverticulosis of the sigmoid colon, 
without wall 
thickening or fat stranding to suggest diverticulitis. 
2. Mild gallbladder wall edema can be site in the setting of 
past thyroid 
dysfunction or third spacing, correlate with liver function 
tests. 
3. No acute intra-abdominal process to explain the patient's 
symptoms. 

 
Brief Hospital Course:
Shortly after admission, Ms. ___ abdominal pain 
completely resolved, and she was able to tolerate a regular 
diet. Her transaminases and bilirubin likely trended down. She 
was evaluated by the infectious disease team, who did not feel 
that the findings on ultrasound represented any sequela of 
amebic infection (especially in the setting of a normal CT 
scan). With the absence of any additional infectious symptoms, 
they did not recommend any additional infectious work up. 
Hepatology evaluated the patient as well; they felt her 
presentation was most consistent with a passed stone, and 
recommended an outpatient MRCP (which has been ordered), and 
then follow up with Dr. ___ in liver clinic (already 
scheduled). Otherwise, a drug-induced liver injury is potential, 
given recent amoxicillin, though the dramatic resolution of her 
symptoms does not suggest this. In any event, the patient is 
doing well and will follow up with her PCP ___ week 
to check her liver enzymes. She will hold her metformin and 
statin until then.

   [ ] outpatient MRCP
   [ ] LFTs next week and PCP follow up
   [ ] restart statin and metformin if LFTs have downtrended
   [ ] follow up in the ___  

Other problems addressed this hospitalization:

# HTN: lisinopril
# HLD: Hold statin
# DMII: Hold metformin.

> 30 minutes spent on discharge activities.

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Lisinopril 5 mg PO DAILY 
2. MetFORMIN (Glucophage) 1000 mg PO BID 
3. Rosuvastatin Calcium 20 mg PO QPM 
4. Multivitamins 1 TAB PO DAILY 
5. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Lisinopril 5 mg PO DAILY  
3.  Multivitamins 1 TAB PO DAILY  
4. HELD- MetFORMIN (Glucophage) 1000 mg PO BID  This medication 
was held. Do not restart MetFORMIN (Glucophage) until you see 
Dr. ___ have your liver enzymes checked.
5. HELD- Rosuvastatin Calcium 20 mg PO QPM  This medication was 
held. Do not restart Rosuvastatin Calcium until you see Dr. 
___ have your liver enymzes checked.

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Liver injury

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted with liver injury. While your liver enzymes 
were very high, you rapidly improved. The two most likely 
diagnoses are a passed stone, versus liver-injury from 
amoxicillin. You will need to have an MRI of your biliary 
system, and then you will see Dr. ___ in the liver clinic. 
Please call ___ to schedule the MRI (it's called an 
MRCP). You will also need a follow up appointment to check your 
liver enzymes in a few days. I have made you an appointment with 
Dr. ___ on ___. 
 
Followup Instructions:
___